US06551682B1
(6) Production of 10-[3-chloro-5-(trifluoro-methyl)-2-pyridylazo]-9-phenanthrol (No. L56)
Next, a reaction flask was loaded with acetic acid (15 ml) and 9,10-phenanthrenequinone (5.0 g), and the temperature was raised to 100° C. with stirring to dissolve 9,10-phenanthrenequinone. To the resultant, the crystals of 3-chloro-2-hydrazino-5-(trifluoromethyl)-pyridine (5.0 g) was added in 30 minutes. After stirring at 100 to 105° C. for one hour, the reaction mixture was filtrated. After being washed with methanol, the obtained crystals were dried to give intended crystals (5.6 g).

reactant | 9,10-phenanthrenequinone | 5.0 g | C1=CC=CC=2C3=CC=CC=C3C(C(C12)=O)=O | C14H8O2
reactant | 3-chloro-2-hydrazino-5-(trifluoromethyl)-pyridine | 5.0 g | ClC=1C(=NC=C(C1)C(F)(F)F)NN | C6H5ClF3N3
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 10-[3-chloro-5-(trifluoro-methyl)-2-pyridylazo]-9-phenanthrol | ClC=1C(=NC=C(C1)C(F)(F)F)N=NC1=C(C2=CC=CC=C2C=2C=CC=CC12)O | C20H11ClF3N3O
